data/oMe_Silver.jsonl
{"reaction_id": "NR-003_1-CC1CO1_2-C","name": "Acyoin Condensation","level": "medium","reactants_smiles": ["C(=O)(CC1CO1)(OC)"],"products_smiles": ["O=C(CC1CO1)C(O)CC1CO1"],"conditions": "Na, then H2O workup","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C]([O-])(CC1CO1)(OC)","step_weight": 0,"rationale": "Sodium metal donates an electron to the ester carbonyl, forming a radical anion stabilized by resonance between the carbonyl and alkoxide oxygen."},{"step": 2,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C([O-])(CC1CO1)(OC)C([O-])(CC1CO1)(OC)","step_weight": 0,"rationale": "Two carbon-centered radicals couple due to high radical reactivity, forming a C–C bond between α-carbons adjacent to electron-withdrawing carbonyls."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(CC1CO1)C(=O)CC1CO1","step_weight": 0,"rationale": "Alkoxide elimination occurs as the leaving group is stabilized by resonance and sodium counterion, forming a more conjugated 1,2-diketone."},{"step": 4,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC1CO1)=C([O])CC1CO1","step_weight": 0,"rationale": "A second electron from sodium reduces one carbonyl to a radical anion, favored by the electrophilicity of the carbonyl carbon."},{"step": 5,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC1CO1)=C([O-])CC1CO1","step_weight": 0,"rationale": "Further electron transfer reduces the other carbonyl, producing a dianion stabilized by delocalization over both oxygens."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC1CO1)C([O-])CC1CO1","step_weight": 0,"rationale": "Proton transfer from solvent or protic impurities protonates one alkoxide, driven by the high basicity of the oxygen anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC1CO1)C(O)CC1CO1","step_weight": 0,"rationale": "Final protonation during aqueous workup yields the neutral α-hydroxyketone, favored by the stability of the carbonyl and alcohol functionalities."}],"description": "In the acyloin condensation, sodium donates electrons to ester carbonyls, generating radical anions that couple to form a 1,2-diketone intermediate. Subsequent electron transfers and protonations under reductive conditions yield the α-hydroxyketone product after aqueous workup."}
{"reaction_id": "NR-110_1-c1ccccc1C_2-P(=O)(c1ccccc1)c2ccccc2_3-CC_4-c1ccc(N(C)C)cc1","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(Oc1ccccc1C)(Oc1ccccc1C)C(P(=O)(c1ccccc1)c2ccccc2)CC","O=Cc1ccc(N(C)C)cc1"],"products_smiles": ["C(c1ccc(N(C)C)cc1)=C(P(=O)(c1ccccc1)c2ccccc2)CC"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(Oc1ccccc1C)(Oc1ccccc1C)[C-](P(=O)(c1ccccc1)c2ccccc2)CC","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(Oc1ccccc1C)(Oc1ccccc1C)C(P(=O)(c1ccccc1)c2ccccc2)(CC)C([O-])c1ccc(N(C)C)cc1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COP1([O-])(Oc1ccccc1C)C(P(=O)(c1ccccc1)c2ccccc2)(CC)C(c1ccc(N(C)C)cc1)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(N(C)C)cc1)=C(P(=O)(c1ccccc1)c2ccccc2)CC","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
